US03982001
1-Cinnamyl-4-hydroxy-4-(3.4-methylene dioxy phenyl)-piperidine [Process variant b)]
4.4 g. 4-hydroxy-4-(3.4-methylene dioxy phenyl) -piperidine are dissolved hot in 75 ml. acetone, the solution obtained is mixed with 2.5 g. cinnamyl bromide and the reaction mixture is heated at reflux to boiling over the course of 4 hours. After boiling for 1 hour, part of the hydrobromide of the piperidinol used as the starting compound forms a precipitate and this is filtered off on completion of the reaction. The filtrate is then evaporated to dryness and extracted 3 times with 70 ml. ether each time. The ether solutions are combined, concentrated and mixed with petroleum ether during which time 1-cinnamyl-4-hydroxy-4-(3.4-methylene dioxy phenyl)-piperidine with a melting point of 114° - 115°C precipitates.

reactant | 4-hydroxy-4-(3.4-methylene dioxy phenyl) -piperidine | OC1(CCNCC1)C1=CC2=C(C=C1)OCO2 | C12H15NO3
reactant | cinnamyl bromide | C(C=CC1=CC=CC=C1)Br | C9H9Br
reactant | hydrobromide | Br | BrH
reactant | piperidinol | N1(CCCCC1)O | C5H11NO
solvent | acetone | CC(=O)C | C3H6O
product | 1-Cinnamyl-4-hydroxy-4-(3.4-methylene dioxy phenyl)-piperidine | C(C=CC1=CC=CC=C1)N1CCC(CC1)(C1=CC2=C(C=C1)OCO2)O | C21H23NO3
